US07579417B2
a) 2-methyl-2-[(7-methyl-2-naphthyl)methyl]malonic acid
To a stirred suspension of 3.6 g NaH (90 mmol, 60% in mineral oil) in 200 ml Et2O 16.2 ml (94 mmol) of diethyl 2-methylmalonate was added slowly with cooling. After 2 h stirring at 20 C, solution of 21.2 g (90 mmol) of 2-(bromomethyl)-7-methylnaphthalene (prepared according Gorsane, M.; Martin, R. H.; Bull. Soc. Chim. Belg.; 94; 3; 1985; 205-214.) in 20 ml of THF was added, resulting mixture was stirred overnight and decomposed by addition of saturated NH4Cl solution. Organic phase was separated, aqueous—extracted twice with 100 ml portions of ether. Combined extracts were evaporated, residue was dissolved in 150 ml methanol and solution of KOH (20 g, 360 mmol) was added slowly. Mixture was refluxed for 5 h, then evaporated to dryness and resulting semisolid was dissolved in warm water (300 ml). Solution was extracted three times with 100 ml portions of ether, then acidified carefully by addition of 10% HCl. Precipitate of acid 2 was collected and dried, yielded 18.8 g (76%) of yellowish powder.

reactant | NaH | 90 mmol, 3.6 g | [H-].[Na+]
reactant | Et2O | 94 mmol, 200 ml | CCOCC | C4H10O
reactant | diethyl 2-methylmalonate | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | 2-(bromomethyl)-7-methylnaphthalene | 90 mmol, 21.2 g | BrCC1=CC2=CC(=CC=C2C=C1)C | C12H11Br
reactant | NH4Cl | [NH4+].[Cl-]
reactant | KOH | 360 mmol, 20 g | [OH-].[K+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 2-methyl-2-[(7-methyl-2-naphthyl)methyl]malonic acid | 18.8 g, 76% | CC(C(=O)O)(C(=O)O)CC1=CC2=CC(=CC=C2C=C1)C | C16H16O4
